US06369060B1
6-(2-Methylpyridin-3-yloxy)-pyridazine-3-carbonyl azide (D13)
A solution of 6-(2-methylpyridin-3-yloxy)-pyridazine-3-carboxylic acid hydrazide (D12) (0.62 g, 2.53 mmol) in conc. hydrochloric acid (9 ml) and water (7.5 ml) cooled to 0° C. in an ice-bath was treated with a solution of sodium nitrite (0.18 g, 2.53 mmol) in water (1.5 ml) dropwise keeping the temperature below 5° C. After 10 minutes saturated potassium carbonate was added until basic. The precipitate was filtered off, washed with water and air dried to give a cream solid (0.33 g, 51%).

reactant | 6-(2-methylpyridin-3-yloxy)-pyridazine-3-carboxylic acid hydrazide | 2.53 mmol, 0.62 g | CC1=NC=CC=C1OC1=CC=C(N=N1)C(=O)NN | C11H11N5O2
reactant | sodium nitrite | 2.53 mmol, 0.18 g | N(=O)[O-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 9 ml | Cl | ClH
solvent | water | 7.5 ml | O | H2O
solvent | water | 1.5 ml | O | H2O
product | 6-(2-Methylpyridin-3-yloxy)-pyridazine-3-carbonyl azide | 0.33 g, 51% | CC1=NC=CC=C1OC1=CC=C(N=N1)C(=O)N=[N+]=[N-] | C11H8N6O2
